US07018997B2
Step 1: Preparation of 4-methoxy-6,7-dihydro-5H-cyclopentapyrimidin-2-ylamine
(S M:Ross, L. O.; Goodman, L.; Baker, B. R. J. Am. Chem. Soc. 1959, 81, 3108) 5.3 grams of 4-chloro-6,7-dihydro-5H-cyclopentapyrimidin-2-ylamine was dissolved in 200 ml xylene and 30 ml absolute methanol. Then 5.4 gram for sodium methoxide was added and the mixture was refluxed for 3 hours. Then the solvent was removed in vacuo and 100 ml water was added to the residue. Filter and wash the cake with water (50 ml). The solid was further vacuumed to dry for several hours. The desired product weighed 4.8 gram (98% yield). Mp: 133.8˜134.9° C.; MS: 166.2.0 (M+H)

reactant | 4-chloro-6,7-dihydro-5H-cyclopentapyrimidin-2-ylamine | 5.3 grams | ClC1=NC(=NC2=C1CCC2)N | C7H8ClN3
reactant | sodium methoxide | C[O-].[Na+]
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | methanol | 30 ml | CO | CH4O
product | 4-methoxy-6,7-dihydro-5H-cyclopentapyrimidin-2-ylamine | 98% yield | COC1=NC(=NC2=C1CCC2)N | C8H11N3O
